US07700594B2
trans-4-(8-Amino-1-(1H-indol-2-yl)imidazo[1,5-a]pyrazin-3-yl)-N-pyridin-3-ylcyclohexanecarboxamide
A suspension of 3-aminopyridine (40 mg, 0.43 mmol) in toluene (1.3 mL) was treated with a 2M toluene solution of trimethylaluminum (0.3 mL, 0.60 mmol). After 25 min, the resulting solution was treated with methyl trans-4-(8-amino-1-(1H-indol-2-yl)imidazo[1,5-a]pyrazin-3-yl)cyclohexanecarboxylate (30 mg, 0.08 mol) and the mixture stirred at rt overnight. The mixture was then stirred with 2M NaOH (20 mL) and ethyl acetate (20 mL) for 10 min., then the organic phase was separated and the aqueous extracted EtOAc (3×5 mL). The combined organic extracts were washed with water (20 mL) and brine (20 mL), then dried over Na2SO4 and concentrated in vacuo to give crude product which was subjected to mass-directed preparative HPLC to afford pure desired product. 1H NMR (d6-DMSO, 400 MHz): δ 11.45 (br s, 1H), 10.12 (s, 1H), 8.77 (d, J=2.4 Hz, 1H), 8.25 (d, J=4.8 Hz, 1H), 8.14 (s, 1H), 8.08 (dd, J=8.0, 1.6 Hz, 1H), 7.71 (d, J=5.2 Hz, 1H), 7.59 (d, J=7.6 Hz, 1H), 7.46 (d, J=8.4 Hz, 1H), 7.34 (m, 1H), 7.15-7.00 (m, 3H), 6.65 (s, 1H), 6.42 (br s, 2H), 3.22 (m, 1H), 2.47 (m, 1H), 2.15-1.95 (m, 4H), and 1.85-1.65 (m, 4H). MS (ES+): m/z 452.17 [MH+].

reactant | 3-aminopyridine | 0.43 mmol, 40 mg | NC=1C=NC=CC1 | C5H6N2
reactant | trimethylaluminum | 0.60 mmol, 0.3 mL | C[Al](C)C
reactant | methyl trans-4-(8-amino-1-(1H-indol-2-yl)imidazo[1,5-a]pyrazin-3-yl)cyclohexanecarboxylate | 0.08 mol, 30 mg | NC=1C=2N(C=CN1)C(=NC2C=2NC1=CC=CC=C1C2)[C@@H]2CC[C@H](CC2)C(=O)OC | C22H23N5O2
reactant | NaOH | 2M, 20 mL | [OH-].[Na+]
solvent | toluene | 1.3 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2M | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | trans-4-(8-Amino-1-(1H-indol-2-yl)imidazo[1,5-a]pyrazin-3-yl)-N-pyridin-3-ylcyclohexanecarboxamide | NC=1C=2N(C=CN1)C(=NC2C=2NC1=CC=CC=C1C2)[C@@H]2CC[C@H](CC2)C(=O)NC=2C=NC=CC2 | C26H25N7O
